US04348493
Preparation of 1,8-Bis[4-ethoxycarbonylmethyleneamino-6-(2,2,6,6-tetramethyl-4-piperidinyl)amino-1,3,5-triazin-2-yl]-1,8-diazaoctane
2,4-Dichloro-6-ethoxycarbonylmethyleneamino-1,3,5-triazine (12.5 grams; 0.05 mole), dissolved in toluene (200 mls), is treated with 4-amino-2,2,6,6-tetramethylpiperidine (7.8 grams; 0.05 mole) and powdered sodium hydroxide (2.0 grams; 0.05 mole) and the mixture is stirred at 40° C. for 3 hours. At this point, powdered sodium hydroxide (2.0 grams; 0.05 mole) and hexamethylenediamine (2.9 grams; 0.025 mole) are added and the mixture is heated at reflux for 8 hours. The reaction mixture is filtered and the filtrate is heated under vacuum to remove the solvent. The resulting residue is the desired product.

reactant | 2,4-Dichloro-6-ethoxycarbonylmethyleneamino-1,3,5-triazine | 0.05 mole, 12.5 grams | ClC1=NC(=NC(=N1)Cl)N=CC(=O)OCC | C7H6Cl2N4O2
reactant | 4-amino-2,2,6,6-tetramethylpiperidine | 0.05 mole, 7.8 grams | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
reactant | sodium hydroxide | 0.05 mole, 2.0 grams | [OH-].[Na+]
reactant | sodium hydroxide | 0.05 mole, 2.0 grams | [OH-].[Na+]
reactant | hexamethylenediamine | 0.025 mole, 2.9 grams | NCCCCCCN | C6H16N2
solvent | toluene | 200 mls | C1(=CC=CC=C1)C | C7H8
product | 1,8-Bis[4-ethoxycarbonylmethyleneamino-6-(2,2,6,6-tetramethyl-4-piperidinyl)amino-1,3,5-triazin-2-yl]-1,8-diazaoctane | C(C)OC(=O)C=NC1=NC(=NC(=N1)NC1CC(NC(C1)(C)C)(C)C)NCCCCCCNC1=NC(=NC(=N1)N=CC(=O)OCC)NC1CC(NC(C1)(C)C)(C)C | C38H64N14O4
